US08304552B2
L-Alanine methyl ester hydrochloride (0.85 g, 6.1 mmol) was taken up in CH3CN (20 mL) along with (4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenoic acid (2.0 g, 6.1 mmol), EDCI (1.3 g, 6.72 mmol) and DIEA (1.3 mL). The resulting reaction mixture was stirred at room temperature for 2 h. It was then diluted with EtOAc and washed with dilute aqueous NaHCO3 and brine. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure to afford (S)-methyl 2-((4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamido)propanoate (2.0 g, 79%).

reactant | L-Alanine methyl ester hydrochloride | 6.1 mmol, 0.85 g | Cl.COC([C@@H](N)C)=O
reactant | (4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenoic acid | 6.1 mmol, 2.0 g | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)O | C22H32O2
reactant | EDCI | 6.72 mmol, 1.3 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIEA | 1.3 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 20 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-methyl 2-((4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamido)propanoate | 2.0 g, 79% | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)N[C@H](C(=O)OC)C | C26H39NO3
